US04064266
In a similar manner as described in Example 2 reaction of 3-bromo-5-tert-butyl-4-hydroxy-2-methyl-benzaldehyde and malononitrile gave 3-bromo-5-tert-butyl-4-hydroxy-2-methylbenzylidenemalononitrile m.p. 144°.

reactant | 3-bromo-5-tert-butyl-4-hydroxy-2-methyl-benzaldehyde | BrC=1C(=C(C=O)C=C(C1O)C(C)(C)C)C | C12H15BrO2
reactant | malononitrile | C(CC#N)#N | C3H2N2
product | 3-bromo-5-tert-butyl-4-hydroxy-2-methylbenzylidenemalononitrile | BrC=1C(=C(C=C(C#N)C#N)C=C(C1O)C(C)(C)C)C | C15H15BrN2O
